US07592477B2
Step a) Formation of N-[2-(3,4-dichlorophenyl)ethyl]-N-(4-dodec-1-ynylbenzyl)amine
The same procedure as employed in the preparation of Example 394 (step b) but using 4-dodec-1-ynylbenzaldehyde and 2-(3,4-dichlorophenyl)ethylamine gave the title compound as an oil. M+(LC/MS(ESI)): 444.4. HPLC (Condition A), Rt: 5.27 min (HPLC purity: 83.9 %).

reactant | 4-dodec-1-ynylbenzaldehyde | C(#CCCCCCCCCCC)C1=CC=C(C=O)C=C1 | C19H26O
reactant | 2-(3,4-dichlorophenyl)ethylamine | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
product | N-[2-(3,4-dichlorophenyl)ethyl]-N-(4-dodec-1-ynylbenzyl)amine | ClC=1C=C(C=CC1Cl)CCNCC1=CC=C(C=C1)C#CCCCCCCCCCC | C27H35Cl2N
